US05532258
A solution of 4-(3-aminomethyl-4-methoxyphenyl)-2(diaminomethyleneamino)thiazole (350 mg) and N-[di(methylthio)methylene]cyanamide (190 mg) in N,N-dimethylformamide (20 ml) was heated at 70° C. for 2.5 hours. After cooling, 40% methylamine solution (6 ml) was added to the mixture and the mixture was stirred for 5 hours at room temperature. The solvent was removed under reduced pressure and the residue was chromatographed on a silica gel column eluting with a mixture of chloroform and methanol (10:1). Recrystallization from a mixture of methanol and diisopropyl ether afforded 2-(diamino-methyleneamino)-4-[3-{(3-methyl-2-cyanoguanidino)methyl}-4-methoxyphenyl]thiazole (180 mg).

reactant | 4-(3-aminomethyl-4-methoxyphenyl)-2(diaminomethyleneamino)thiazole | 350 mg | NCC=1C=C(C=CC1OC)C=1N=C(SC1)N=C(N)N | C12H15N5OS
reactant | N-[di(methylthio)methylene]cyanamide | 190 mg | CSC(=NC#N)SC | C4H6N2S2
reactant | methylamine | 6 ml | CN | CH5N
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-(diamino-methyleneamino)-4-[3-{(3-methyl-2-cyanoguanidino)methyl}-4-methoxyphenyl]thiazole | 180 mg | NC(=NC=1SC=C(N1)C1=CC(=C(C=C1)OC)CNC(=NC#N)NC)N | C15H18N8OS
